US05849261
c. N-(5-carboxypentyl)-N,N'-bis(2-methyl-2-triphenylmethylthiopropyl)ethylenediamine
K2CO3 (1.92 g, 13.9 mmol, 100 mol %) was added to N,N'-bis (2-methyl-2-triphenylmethylthiopropyl)ethylenediamine (10.03 g, 13.9 mmol) in CH3CN (60 mL), followed by ethyl 5-bromovalerate (3.30 mL, 20.8 mmol, 150 mol %). The reaction was heated at reflux under argon overnight. The solution was then concentrated to a paste and partitioned between 0.25M KOH (100 mL) and ethyl acetate (100 mL). The aqueous layer was extracted with ethyl acetate (1×50 mL) and the combined ethyl acetate layers were washed with 50 mL water and NaCl solution (2×50 mL), dried with Na2SO4 and concentrated to an orange oil. Purification by flash chromatography (300 g flash silica, 100% CHCl3 to 5% MeOH/CHCl3) gave pure title compound (7.75 g, 66% yield). FABMS analysis yielded an (MH+) of 849 (compared with a calculated molecular weight of 849.24 for the compound C55H64N2O2 S2).

reactant | K2CO3 | 13.9 mmol, 1.92 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N'-bis (2-methyl-2-triphenylmethylthiopropyl)ethylenediamine | 13.9 mmol, 10.03 g | CC(CNCCNCC(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H52N2S2
reactant | ethyl 5-bromovalerate | 20.8 mmol, 3.30 mL | BrCCCCC(=O)OCC | C7H13BrO2
solvent | CH3CN | 60 mL | CC#N | C2H3N
product | N-(5-carboxypentyl)-N,N'-bis(2-methyl-2-triphenylmethylthiopropyl)ethylenediamine | 7.75 g, 66% yield | C(=O)(O)CCCCCN(CCNCC(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C)(SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C54H62N2O2S2
